* C:\Users\emanu\Desktop\DCE-GRUPO10\REALIMENTADOR\LTSpice\Calculo.asc
V1 5V 0 5
V2 0 -5V 5
XU1 0 N002 15V -15V error AD817
R1 0 0 1k
Rf Vf N001 190k
Lf1 Vs vo 33µ
Cf1 vo 0 330n
R5 vo 0 8
V8 15V 0 15
V9 0 -15V 15
V10 VCC 0 30
V11 0 VEE 30
V4 Vf 0 AC 1
B1 Vs 0 V=20*delay(V(error), 120n)
C1 NC_01 N002 {C}
R2 0 0 {R}
C2 NC_02 0 {C}
R4 error N002 {R}
R3 N002 N001 1k
R6 N001 0 10k
.ac dec 10000 0.1 10Meg
.include AD817.301
.param R=47k
.include LM311.301
.options plotwinsize = 0
.options numdgt = 15
.model SW SW(Ron=.01 Roff=10Meg Vt=1)
.param C=6.8p
.step dec param R 1k 10Meg 1
.meas Gain FIND mag(-V(Vs)/V(Vf)) AT 1k
.backanno
.end
